US05543520
In accordance with the general procedure described in Example 1, reaction of 226.2 mg (1.0 mmol) of 3-dimethylamino-(4-isoquinolyl)-2-propen-1-one and 185 g (0.60 mmol) of 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate gives N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(4-isoquinolyl)-2-pyrimidine-amine; FAB-MS:415 (M+ +1), m.p. 158°-160° C.

reactant | 3-dimethylamino-(4-isoquinolyl)-2-propen-1-one | 1.0 mmol, 226.2 mg | CN(C=CC(=O)C1=CN=CC2=CC=CC=C12)C | C14H14N2O
reactant | 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate | 0.60 mmol, 185 g | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
product | N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(4-isoquinolyl)-2-pyrimidine-amine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CN=CC2=CC=CC=C12)F | C21H14F4N4O
